US06878831B2
3) 2-Hydroxy-5,5-dimethyl-4-(1-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide
Sodium hydroxide (29.4 g, 0.735 mol) was dissolved in water (300 ml). To the solution was added 2-chloro-5,5-dimethyl-4-(1-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide (76.1 g, 0.245 mol) little by little, with stirring and heating at 100° C. The addition was completed for 35 min, and the solution was further stirred for 20 min. The reaction solution was cooled to 55° C., which resulted in precipitation of a large amount of crystals. Under stirring, concentrated hydrochloric acid (73 ml) was added to the mixture to adjust the mixture to acidic, and the mixture solidified and turned into powder by leaving it for about 1 hr. To the powder was added ether (100 ml), and the mixture was stirred and filtered. The obtained crystals were washed alternately with water and ether and dried to give the title compound as pale ocher crystals having the melting point of 216 to 217° C. (41.23 g, yield 57.6%).

reactant | Sodium hydroxide | 0.735 mol, 29.4 g | [OH-].[Na+]
reactant | 2-chloro-5,5-dimethyl-4-(1-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide | 0.245 mol, 76.1 g | ClP1(OCC(C(O1)C1=CC=CC2=CC=CC=C12)(C)C)=O | C15H16ClO3P
reactant | hydrochloric acid | 73 ml | Cl | ClH
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | water | 300 ml | O | H2O
product | 2-Hydroxy-5,5-dimethyl-4-(1-naphthyl)-1,3,2-dioxaphosphorinane 2-oxide | yield 57.6% | OP1(OCC(C(O1)C1=CC=CC2=CC=CC=C12)(C)C)=O | C15H17O4P
